US07893090B2
(RS)-1-[2-(3-Chloro-furo[3,2-b]pyridin-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone
A solution of chlorine (28 mg) in dichloromethane (3 ml) was added to a cooled (−12° C.) solution (RS)-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-1-(2-furo[3,2-b]-pyridin-2-ylmethyl-piperidin-1-yl)methanone, E79 (170 mg) in dichloromethane (4 ml). After stirring at −12° C. for 0.5 h the reaction mixture was stirred at room temperature for 16 h then the solution was washed with saturated aqueous NaHCO3, dried (Na2SO4) and the solvent removed in vacuo. Chromatography (silica gel, 0-100% ethyl acetate-hexane then 0-10% methanol-ethyl acetate) afforded the title compound (24 mg).

reactant | chlorine | 28 mg | ClCl | Cl2
reactant | (RS)-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-1-(2-furo[3,2-b]-pyridin-2-ylmethyl-piperidin-1-yl)methanone | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)N1C(CCCC1)CC1=CC2=NC=CC=C2O1 | C24H22FN3O2S
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (RS)-1-[2-(3-Chloro-furo[3,2-b]pyridin-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | 24 mg | ClC1=C(OC=2C1=NC=CC2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C24H21ClFN3O2S
